US05650533
A solution of n-butyllithium (2.5M in hexane, 36 ml) was added dropwise with stirring to a cooled solution of diisopropylamine (9.09 g) in dry tetrahydrofuran (i.e. tetrahydofuran) in an atmosphere of nitrogen, whilst maintaining the temperature below -70° C. The mixture was stirred for 0.25 hour and t-butyltrimethylsilylacetate (16.9 g) was added dropwise with stirring whilst maintaining the temperature below -70° C. The mixture was stirred at -78° C. for 1 hour. A suspension of 1-(1-methylcyclopropylcarbonyl)-imidazole (13.5 g) in dry tetrahydrofuran (120 ml) was added dropwise whilst maintaining the temperature below -60° C. The mixture was stirred at -78° C. for 3 hours and the temperature was allowed to rise to room temperature. Hydrochloric acid (2M, 100 ml) was added cautiously and the mixture was extracted with ether (2×100 ml). The combined extracts were washed with hydrochloric acid (2M, 3×50 ml) and water (3×50 ml), dried (anhydrous sodium sulphate) and filtered. The filtrate was evaporated to dryness to give t-butyl 3-(1-methylcyclopropyl)-3-oxopropionate as an orange oil NMR (CDCl3) 0.65(m,2H), 1.1(m,2H), 1.25(s,3H), 1.4(s,9H), 3.2(s,2H).

reactant | n-butyllithium | 2.5M, 36 ml | C(CCC)[Li]
reactant | diisopropylamine | 9.09 g | C(C)(C)NC(C)C | C6H15N
reactant | t-butyltrimethylsilylacetate | 16.9 g | C(C)(C)(C)OC(C[Si](C)(C)C)=O | C9H20O2Si
reactant | 1-(1-methylcyclopropylcarbonyl)-imidazole | 13.5 g | CC1(CC1)C(=O)N1C=NC=C1 | C8H10N2O
reactant | Hydrochloric acid | 2M, 100 ml | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | t-butyl 3-(1-methylcyclopropyl)-3-oxopropionate | CC1(CC1)C(CC(=O)OC(C)(C)C)=O | C11H18O3
